US08067599B2
3′-(4-Methyl-piperazin-1-ylmethyl)-biphenyl-4-carboxylic acid
98 mg 4-Carboxybenzeneboronic acid, 159 mg 1-(3-Bromo-benzyl)-4-methyl-piperazine, 410 mg potassium carbonate, and 69 mg tetrakis-triphenylphosphino-palladium were stirred under an argon atmosphere in a mixture of 1 ml dioxane and 1 ml water at 85 C for 16 hrs. The mixture was cooled to RT, diluted with 100 ml water and filtered. The filtrate was carefully treated with conc. HCl until the product precipitated. Filtration and drying of the residue yielded 190 mg of the title product.

reactant | 4-Carboxybenzeneboronic acid | 98 mg | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 1-(3-Bromo-benzyl)-4-methyl-piperazine | 159 mg | BrC=1C=C(CN2CCN(CC2)C)C=CC1 | C12H17BrN2
reactant | potassium carbonate | 410 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
solvent | water | 100 ml | O | H2O
catalyst | tetrakis-triphenylphosphino-palladium | 69 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3′-(4-Methyl-piperazin-1-ylmethyl)-biphenyl-4-carboxylic acid | 190 mg | CN1CCN(CC1)CC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)O | C19H22N2O2
